US07700641B2
A. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1C, and making non-critical variations to replace 4-bromo-1-pentyl-1H-indole-2,3-dione with 1-pentyl-1H-indole-2,3-dione, and 1,3-benzodioxol-5-ol with 4-bromophenol, the title compound was obtained (41%): 1H NMR (300 MHz, CDCl3) δ 9.46-9.25 (br, 1H), 7.51-6.80 (m, 7H), 4.73-4.51(br, 1H), 3.79-3.56 (m, 2H), 1.76-1.60 (m, 2H), 1.41-1.22 (m, 4H), 0.87 (t, 3H); MS (ES+) m/z 377 (M−17), 379 (M−17), 412 (M+23), 414 (M+23).

reactant | 4-bromo-1-pentyl-1H-indole-2,3-dione | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)=O | C13H14BrNO2
reactant | 1-pentyl-1H-indole-2,3-dione | C(CCCC)N1C(C(C2=CC=CC=C12)=O)=O | C13H15NO2
reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
product | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
